US06114568
A solution of 1-{(2-Ethoxycarbonyl-vinyl)-[4-(4-fluoro-phenoxy)-benzenesulfonyl]-amino}-cyclopentanecarboxylic acid tert-butyl ester (1.23 g, 2.3 mmole) in 50 mL ethanol with 723 mg 5% Pd/C catalyst was hydrogenated at ambient temperature until HPLC indicated that the reaction was complete. The catalyst was filtered and the filtrate evaporated to give an oil which was submitted to chromatography over silica gel, eluting with 105 ethyl acetate in hexane. 1-{(2-Ethoxycarbonyl-ethyl)-[4-(4-fluoro-phenoxy)-benzenesulfonyl]-amino}-cyclopentanecarboxylic acid tert-butyl ester was isolated as a colorless oil (875 mg, 71% yield). 1H NMR (CDCl3) □ 7.75-7.80 (m, 2H), 6.86-7.01 (m, 6H), 4.09 (q, J=7.2, 2H), 3.44-3.48 (m, 2H), 2.66-2.72, m, 2H), 2.09-2.15 (m, 2H), 1.52-1.74, m, 4H), 1.43 (s, 9H), 1.21 (t, J=7.2 Hz, 3H).

reactant | 1-{(2-Ethoxycarbonyl-vinyl)-[4-(4-fluoro-phenoxy)-benzenesulfonyl]-amino}-cyclopentanecarboxylic acid tert-butyl ester | 2.3 mmole, 1.23 g | C(C)(C)(C)OC(=O)C1(CCCC1)N(S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C=CC(=O)OCC | C27H32FNO7S
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | 723 mg | [Pd] | Pd
product | 1-{(2-Ethoxycarbonyl-ethyl)-[4-(4-fluoro-phenoxy)-benzenesulfonyl]-amino}-cyclopentanecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1(CCCC1)N(S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)CCC(=O)OCC | C27H34FNO7S
